US07576089B2
2-(8-Hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-N-methyl-1,3-thiazole-4-carboxamide
To a stirred solution of 2-(8-hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-1,3-thiazole-4-carboxylic acid (0.30 g, 1.05 mmol) and methylamine (2M in THF, 2 mL, 4 mmol)in CH2Cl2 (10 mL) was added Et3N (0.5 mL, 3.6 mmol) followed by EDC (0.242 g, 1.262 mmol) and HOBt (0.193 g, 1.26 mmol). The mixture was stirred at room temperature overnight. Then the reaction mixture was diluted with EtOAc and washed with saturated Na2CO3 and brine. The organic layer was dried (MgSO4), concentrated and flash chromatographed (50% EtOAc/hexanes) to give 0.16 g of the title compound in 50% yield. MS (EI) (M+H)+=299.0.

reactant | 2-(8-hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-1,3-thiazole-4-carboxylic acid | 1.05 mmol, 0.30 g | OC1(CCC2(OCCO2)CC1)C=1SC=C(N1)C(=O)O | C12H15NO5S
reactant | methylamine | 4 mmol, 2M, 2 mL | CN | CH5N
reactant | Et3N | 3.6 mmol, 0.5 mL | CCN(CC)CC | C6H15N
reactant | EDC | 1.262 mmol, 0.242 g
reactant | HOBt | 1.26 mmol, 0.193 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(8-Hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-N-methyl-1,3-thiazole-4-carboxamide | 0.16 g, 50% yield | OC1(CCC2(OCCO2)CC1)C=1SC=C(N1)C(=O)NC | C13H18N2O4S
